Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ketoconazole / lovastatin / pravastatin / lisinopril / 
simvastatin / atorvastatin / duloxetine / ciprofloxacin / Sulfa 
(Sulfonamide Antibiotics) / shellfish derived
 
Attending: ___.
 
Chief Complaint:
dysphagia
 
Major Surgical or Invasive Procedure:
Successful PEG tube placement. 
•Otherwise normal EGD to third part of the duodenum
 

Recommendations: •Admit to Hospital 
•Follow-up with Dr. ___ as previously scheduled. 
•We will loosen bumper slightly tomorrow and document location 
of bumper. 
•Flush peg daily with 30 cc cranberry juice or ___ 
followed by 30 cc water. Clean the area around the feeding tube 
with mild soap and water daily. Rinse well and keep dry. You can 
use a cotton swab (Q-tip) or gauze to very gently clean under 
the bumper. 
•After 48 hours you may shower as usual. Mild soap and water is 
advisable. After Day 7, you may take a bath. 

___
 

 
History of Present Illness:
Pt is a ___ y.o woman with h.o ALS complicated by dysphagia, 
dysarthria who was admitted today for scheduled placement of a 
PEG tube. Pt has noticed that her speech and swallowing 
capabilities have become more difficult. Of note, her FVC is 49% 
and she uses bypap at night and occasionally during the day. 
.
Currently, pt reports ___ dull abdominal pain at the site of 
PEG placement and nausea. She denies vomiting, constipation, 
diarrhea, dysuria, CP, sob, cough. Reports mild frontal 
headache, unable to rate on quantify. No blurred vision. 
.
10 pt ROS Reviewed and otherwise negative for ST, palpitations, 
constipation, melena, brbpr, dysuria. 
 
Past Medical History:
ALS with dysphagia and dysarthria with respiratory compromise
HTN
 
Social History:
___
Family History:
FAMILY HISTORY:
Grandmother: ___
Mother: ___, anxiety
Father: ___ cancer, hypertension
 
Physical Exam:
GEN: well appearing, NAD, wearing bypap
vitals: t 99.2 BP 179/85 HR 115 RR 18 sat 97% on 3L
HEENT: ncat eomi anicteric
chest: b/l ae no w/c/r 
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound, +PEG in place 
bandage c/d/i
Ext: no c/c/e 2+pulses
neuro: dysarthric speech, AAOx3 
psych: calm

discharge
wearing nasal bipap 92-93% RA, not different than typical values 
at home
more alert, voice slightly louder
157/89 HR 100 
clear breath sounds in chest
PEG in LUQ bandaged, no bleeding or bruising, slightly tender
 
Pertinent Results:
Blood -no labs drawn this admission 
 

Chemistry 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 14:00    47* 30     202*      

Speech and swallow: ___
 IMPRESSION:  

Oropharyngeal muscular weakness without penetration, aspiration, 
or 
obstruction. 
.
EGD ___:
Impression: •Successful PEG tube placement. 
•Otherwise normal EGD to third part of the duodenum
 

Recommendations: •Admit to Hospital 
•Follow-up with Dr. ___ as previously scheduled. 
•We will loosen bumper slightly tomorrow and document location 
of bumper. 
•Flush peg daily with 30 cc cranberry juice or ___ 
followed by 30 cc water. Clean the area around the feeding tube 
with mild soap and water daily. Rinse well and keep dry. You can 
use a cotton swab (Q-tip) or gauze to very gently clean under 
the bumper. 
•After 48 hours you may shower as usual. Mild soap and water is 
advisable. After Day 7, you may take a bath. 

 

 

 
Brief Hospital Course:
___ y.o woman with h.o ALS complicated by respiratory 
difficulties, dysphagia, dysarthria who presents for observation 
following PEG tube placement.

#ALS complicated by dysphagia. Pt is now s/p PEG tube placement. 
Planned admission for observation given history of respiratory 
complications. Per report, pt already has met with ___ and ___ 
___ and home services set up.
OK to use PEG for water and meds.  -ERCP fellow loosened bumper 
slightly and sister told me it was marked at 5.5cm.  

-Follow-up with Dr. ___ as previously scheduled. 
•Flush peg daily with 30 cc cranberry juice or ___ 
followed by 30 cc water. Clean the area around the feeding tube 
with mild soap and water daily. Rinse well and keep dry. Can use 
a cotton swab (Q-tip) or gauze to very gently clean under the 
bumper. 
•After 48 hours shower as usual. Mild soap and water is 
advisable. After Day 7, you may take a bath

She will continue neudexta and riluzole

#Restrictive ventilatory defect due to ALS-continuous O2 
monitoring. Bypap at night and during the day prn per home 
regimen
.
#hypertension-continue losartan 
#constipation-bowel regimen
#anxiety-lorazepam
#FEN- regular pO diet, PEG tube not expected to be required 
immediately, can start enteral nutrition when indicated in the 
future

HCP ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Senna 17.2 mg PO BID:PRN constipation 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
4. Lorazepam 1 mg PO/NG QHS 
5. Losartan Potassium 100 mg PO DAILY 
6. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. riluzole 50 mg oral BID 
9. Vitamin D ___ UNIT PO WEEKLY 
10. Guaifenesin ER 600 mg PO DAILY 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. Guaifenesin ER 600 mg PO DAILY 
3. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
4. Lorazepam 1 mg PO QHS 
5. Losartan Potassium 100 mg PO DAILY 
6. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
8. riluzole 50 mg oral BID 
9. Senna 17.2 mg PO BID:PRN constipation 
10. Vitamin D ___ UNIT PO WEEKLY 
11. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ALS
chronic respiratory failure
chronic dysphagia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
you were hospitalized following placement of a PEG tube.  

Flush peg daily with 30 cc cranberry juice or ___ followed 
by 30 cc water. Clean the area around the feeding tube with mild 
soap and water daily. Rinse well and keep dry. You can use a 
cotton swab (Q-tip) or gauze to very gently clean under the 
bumper. 
•After 48 hours you may shower as usual. Mild soap and water is 
advisable. After Day 7, you may take a bath. 

if you have any questions re: unexpected issues or problems 
developing after you return home please page your ALS Dr. ___ 
___ the GI physician who placed the PEG, Dr. ___ 
___ (ERCP fellow, by requesting to page the on call ERCP 
fellow via the ___ operator, his attending is Dr. ___ 
___
 
Followup Instructions:
___